US07781428B2
A solution of methyl 5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (600 mg, 2.9 mmol) in tetrahydrofuran (10 mL) was cooled to ice bath temperature and treated with 1.0 M lithium hexamethyldisilazide in tetrahydrofuran (5 mL). After stirring for twenty minutes, cyclobutanecarboxaldehyde (J. Med. Chem. 1989, 32, 1001-6) (24 mL of 0.5 M solution in tetrahydrofuran) was slowly added and the mixture allowed to warm to room temperature and stir for 3 days. The mixture was poured into water, extracted three times with ethyl acetate, washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by normal phase flash column chromatography on a 50 g silica gel column (5-50% ethyl acetate/hexanes gradient). Pure fractions were pooled and concentrated in vacuo to yield methyl 6-(cyclobutylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (300 mg, 1.1 mmol, 38% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.81-2.03 (m, 4H), 2.14-2.27 (m, 2H), 2.71 (t, J=6.58 Hz, 2H), 2.93-3.00 (m, 2H), 3.34-3.44 (m, 1H), 3.88 (s, 3H), 6.91 (d, J=9.13 Hz, 1H), 7.84-7.95 (m, 2H), 8.01 (d, J=8.06 Hz, 1H). ES-MS m/z 271 (M+H).

reactant | methyl 5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 2.9 mmol, 600 mg | O=C1C=2C=CC(=CC2CCC1)C(=O)OC | C12H12O3
reactant | lithium hexamethyldisilazide | 1.0 M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | cyclobutanecarboxaldehyde | 0.5 M, 24 mL | C1(CCC1)C=O | C5H8O
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | methyl 6-(cyclobutylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 1.1 mmol, 300 mg, 38% yield | C1(CCC1)C=C1C(C=2C=CC(=CC2CC1)C(=O)OC)=O | C17H18O3
